US04255347
Trans-cyclohexane-1,2-dicarboxylic acid (8.105 g; racemic modification) is dissolved in conc. sulfuric acid (25 ml) and chloroform (50 ml) and kept at a temperature of 45° C., to which is added sodium azide (3.6 g) in one hour. After this, the solution is stirred for 90 minutes, added with ice water (25 ml) and is added with ether to remove chloroform. Barium carbonate (90 g) is added to the water layer of the solution to effect the neutralization. Barium sulfate is removed from the solution by filtration and the filtrate is concentrated to dryness to result in needle crystals of rac-trans-2-aminocyclohexanecarboxylic acid (referred to as A) having the following characteristics. When a corresponding rac-cis-compound is used as starting material, there is obtained the corresponding cis-compound i.e. rac-cis-aminocyclohexanecarboxylic acid, referred to as B).

reactant | Trans-cyclohexane-1,2-dicarboxylic acid | 8.105 g | [C@@H]1([C@@H](CCCC1)C(=O)O)C(=O)O | C8H12O4
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | sodium azide | 3.6 g | [N-]=[N+]=[N-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
product | rac-trans-2-aminocyclohexanecarboxylic acid | N[C@H]1[C@@H](CCCC1)C(=O)O | C7H13NO2
